US04536391
According to the method of M. P. Cava, A. A. Deana, K. Muth and M. J. Mitchell (Org. Synth., Coll. Vol. 5, 944 (1973)), 40 ml of a solution of 10 g (66.2 mmols) of 4-aminophenylacetic acid in DMF was added to 15 ml of a solution of 7.14 g (72.8 mmols) of maleic anhydride in DMF at room temperature in argon atmosphere. The reaction mixture was stirred at room temperature for 3 hours and then diluted with 250 ml of ether-benzene (1:1). The resulting precipitate was filtered off, with which 2.87 g (35 mmols) of sodium acetate and 70 ml of acetic anhydride were admixed. The mixture was stirred at 100° C. for 1 hour in argon atmosphere and concentrated in a vacuum. The residue was diluted with 300 ml of ethyl acetate. The ethyl acetate layer was washed with saturated sodium chloride aqueous solution, dried over Na2SO4, concentrated and thereafter subjected to silica gel column chromatography (90:10:5 chloroform-ethyl acetate-acetic acid to 50:50:5 chloroform-ethyl acetate-acetic acid), giving 8.72 g (yield 57%) of (4-maleimidophenyl)acetic acid in the form of a white solid.

reactant | 4-aminophenylacetic acid | 66.2 mmols, 10 g | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | maleic anhydride | 72.8 mmols, 7.14 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | sodium acetate | 35 mmols, 2.87 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 70 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | DMF | CN(C)C=O | C3H7NO
product | (4-maleimidophenyl)acetic acid | 8.72 g, yield 57% | C1(C=CC(N1C1=CC=C(C=C1)CC(=O)O)=O)=O | C12H9NO4
